US07524882B2
Step 1. 5-Hydroxy-2-methyl-2,3-dihydro-benzofuran-2-carboxylic acid methyl ester
5-methoxy-2-methyl-2,3-dihydro-benzofuran-2-carboxylic acid methyl ester (0.32 g, 1.4 mmol) was dissolved in dichloromethane (10 mL) and cooled to 0° C. A solution of boron tribromide in dichloromethane (1.0 M, 3.5 mL, 3.5 mmol) was added. After 1 hr at 0° C., the reaction was diluted with dichloromethane and washed with brine. The organic phase was dried and concentrated. The residue was dissolved in 7:1 benzene:methanol (10 mL) and treated with TMSCHN2 (1.0 M in hexane) until gas evolution ceased. Removal of the solvent gave a residue which was chromatographed on silica gel eluting with 7:3 hexane:ethyl acetate to give the title compound.

reactant | 5-methoxy-2-methyl-2,3-dihydro-benzofuran-2-carboxylic acid methyl ester | 1.4 mmol, 0.32 g | COC(=O)C1(OC2=C(C1)C=C(C=C2)OC)C | C12H14O4
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3.5 mmol, 1.0 M, 3.5 mL | ClCCl | CH2Cl2
product | 5-Hydroxy-2-methyl-2,3-dihydro-benzofuran-2-carboxylic acid methyl ester | COC(=O)C1(OC2=C(C1)C=C(C=C2)O)C | C11H12O4
